US06967216B2
Ethyl 3-methyl-3-pyridin-4-ylprop-2-enoate
4-Acetyl pyridine (9 ml, 83 mmol) was added to a cooled solution of triethylphosphonoacetate (16.5 ml, 83 mmol) and lithium bis(trimethylsilyl)amide (1 M in THF, 90 ml, 90 mmol) in THF (100 ml) at 0° C. The mixture was allowed to warm to room temperature and poured into water. The mixture was extracted with EtOAc. The organic layers were dried and evaporated in vacuo. The crude product was purified by chromatography eluting with 30-50% EtOAc in hexane to give the product as a yellow oil. M/z 192.

reactant | 4-Acetyl pyridine | 83 mmol, 9 ml | C(C)(=O)C1=CC=NC=C1 | C7H7NO
reactant | lithium bis(trimethylsilyl)amide | 90 mmol, 1 M, 90 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | water | O | H2O
reactant | THF | 100 ml | C1CCOC1 | C4H8O
product | Ethyl 3-methyl-3-pyridin-4-ylprop-2-enoate | CC(=CC(=O)OCC)C1=CC=NC=C1 | C11H13NO2
